US06071927
1-Benzyloxy-4-(difluoromethoxy)benzene
Ethyl chlorodifluoroacetate (25 mL, 0.20 mol) was added to 4-(benzyloxy)phenol (20.10 g, 0.10 mol), and potassium carbonate (41.90 g, 0.30 mol) in dimethylformamide (200 mL) and the mixture was stirred at 80° C. for 18 h. Additional ethyl chlorodifluoroacetate (12.7 mL, 0.10 mol) and potassium carbonate (27.74 g, 0.20 mol) were added and the mixture was stirred at 80° C. for 6 h. Additional ethyl chlorodifluoroacetate (12.7 mL, 0.10 mol) and potassium carbonate (27.74 g, 0.20 mol) were added and the mixture was stirred at 120° C. for 15 h. The mixture was cooled, poured into water (1000 mL) and extracted with ethyl acetate (500 mL). The organic fraction was washed with aqueous sodium hydroxide (1M, 500 mL) and brine (500 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with hexane/CH2Cl2 (90:10) to give the title compound as a colorless solid (6.67 g, 27%). 1H NMR (360 MHz, CDCl3) δ 5.05 (2H, s), 6.42 (1H, t, J 74 Hz), 6.94 (2H, m) 7.06 (2H, m), and 7.31-7.44 (5H, m).

reactant | Ethyl chlorodifluoroacetate | 0.20 mol, 25 mL | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
reactant | 4-(benzyloxy)phenol | 0.10 mol, 20.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | potassium carbonate | 0.30 mol, 41.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chlorodifluoroacetate | 0.10 mol, 12.7 mL | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
reactant | potassium carbonate | 0.20 mol, 27.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chlorodifluoroacetate | 0.10 mol, 12.7 mL | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
reactant | potassium carbonate | 0.20 mol, 27.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1000 mL | O | H2O
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 1-Benzyloxy-4-(difluoromethoxy)benzene | 6.67 g, 27% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC(F)F | C14H12F2O2
